US05912246
A mixture of piperazine (Aldrich; 3.99 g), 2,4-difluorobenzonitrile, and N,N-dimethylacetamide (20 mL) is stirred for 1.5 h at 122° C. After cooling, the mixture is partitioned between dichloromethane and satd. aq. sodium bicarbonate. The organic layers are dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel and the appropriate fractions are combined and concentrated to give 1.44 g of 1-(2-cyano-5-fluorophenyl)piperazine; 1H NMR (CDCl3) δ3.01, 3.30, 6.56, 6.63, 7.40.

reactant | piperazine | 3.99 g | N1CCNCC1 | C4H10N2
reactant | 2,4-difluorobenzonitrile | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 1-(2-cyano-5-fluorophenyl)piperazine | 1.44 g | C(#N)C1=C(C=C(C=C1)F)N1CCNCC1 | C11H12FN3
